US05952351
A solution of ethyl 4-amino-1-piperidine carboxylate (9.0 g, 52 mmol.) and 2-chloro-5-fluoronitrobenzene (10.3 g, 58 mmol.) in cyclohexanol (30 mL) containing powdered sodium carbonate (6.1 g, 57 mmol.) was refluxed (>160° C.) for 30 hours or until no further reaction was indicated by tlc (30% EtOAc/hexane). (Alternatively, 2,5-difluoro-nitrobenzene can be used in place of the 2-chloro-5-fluoronitro-benzene). The deep reddish reaction mixture was cooled and diluted with EtOAc. This solution was washed with dil. aq. HCl (3×), water, and then the organic layer dried (anhydrous Na2SO4) and the solvent evaporated to give a red oil. This oil was flash chromatographed on a column of silica gel and the product eluted with a 10-25% EtOAc/hexane gradient. The appropriate fractions were combined, the solvents evaporated, and the residue triturated with 10% Et2O/hexane to give 1-ethoxycarbonyl-4-(4-fluoro-2-nitroanilino)-piperidine as a bright reddish-orange solid, mp: 115-116° C., which was used without further purification.

reactant | ethyl 4-amino-1-piperidine carboxylate | 52 mmol, 9.0 g | NC1CCN(CC1)C(=O)OCC | C8H16N2O2
reactant | 2-chloro-5-fluoronitrobenzene | 58 mmol, 10.3 g | ClC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3ClFNO2
reactant | sodium carbonate | 57 mmol, 6.1 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2,5-difluoro-nitrobenzene | FC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3F2NO2
solvent | cyclohexanol | 30 mL | C1(CCCCC1)O | C6H12O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | EtOAc hexane | CCOC(=O)C.CCCCCC
product | 1-ethoxycarbonyl-4-(4-fluoro-2-nitroanilino)-piperidine | C(C)OC(=O)N1CCC(CC1)NC1=C(C=C(C=C1)F)[N+](=O)[O-] | C14H18FN3O4
